US03962255
A mixture of 25 parts of 4-n-hexylcarbamoyl-2,2,7,7-tetramethyl-1,4-diazacycloheptan-5-one, 11.2 parts of sodium formate, 25 parts of formaldehyde and 2 parts of formic acid were heated at steam bath temperature for 2 hours. 250 Parts of ammonium hydroxide were then added and the solution extracted with chloroform to yield, after drying, 20 parts of a heavy oil which was further purified by column chromatography (silica) to give pure 4-n-hexylcarbamoyl-1,2,2,7,7-pentamethyl-1,4-diazacycloheptan-5-one. This material had the following elemental analysis by weight:

reactant | 4-n-hexylcarbamoyl-2,2,7,7-tetramethyl-1,4-diazacycloheptan-5-one | C(CCCCC)NC(=O)N1CC(NC(CC1=O)(C)C)(C)C | C16H31N3O2
reactant | sodium formate | C(=O)[O-].[Na+]
reactant | formaldehyde | C=O | CH2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | formic acid | C(=O)O | CH2O2
product | 4-n-hexylcarbamoyl-1,2,2,7,7-pentamethyl-1,4-diazacycloheptan-5-one | C(CCCCC)NC(=O)N1CC(N(C(CC1=O)(C)C)C)(C)C | C17H33N3O2
